US07855292B2
E. (S)-2-Azido-3,3-bis-(4-chloro-phenyl)-propionic acid
To a solution of 3-[2-(S)-azido-3,3-bis-(4-chloro-phenyl)-propionyl]-4-(S)-benzyl-oxazolidin-2-one (1.53 g, 3.1 mmol) in 3:1 THF/water (60 mL) at 0° C. was added 30% aq. H2O2 (1.4 mL, 12.3 mmol) and LiOH.H2O (259 mg, 6.2 mmol). The mixture was stirred for 1 h at 0° C. Na2SO3 (2.52 g, 20 mmol) was added, and the mixture was stirred for 30 min at 0° C., then warmed to rt, and stirred for 1 h. The mixture was concentrated without external heating, and the residue was diluted with water and extracted with DCM (3×). The aqueous layer was acidified with conc. HCl and extracted with EtOAc (4×). The combined EtOAc extracts were dried (Na2SO4) and concentrated to provide the desired azidoacid as a colorless solid (0.98 g, 94%). 1H NMR (500 MHz, CDCl3): 7.33-7.24 (m, 6H), 7.21-7.18 (m, 2H), 4.52 (d, J=8.3, 1H), 4.49 (d, J=8.3, 1H).

reactant | 3-[2-(S)-azido-3,3-bis-(4-chloro-phenyl)-propionyl]-4-(S)-benzyl-oxazolidin-2-one | 3.1 mmol, 1.53 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C25H20Cl2N4O3
reactant | H2O2 | 12.3 mmol, 1.4 mL | OO | H2O2
reactant | LiOH.H2O | 6.2 mmol, 259 mg | O[Li].O
reactant | Na2SO3 | 20 mmol, 2.52 g | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF water | 60 mL | C1CCOC1.O
product | (S)-2-Azido-3,3-bis-(4-chloro-phenyl)-propionic acid | 0.98 g, 94% | N(=[N+]=[N-])[C@H](C(=O)O)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C15H11Cl2N3O2
